US07495007B2
In a manner similar to the method described in example 130a, 5-ethyl-2-hydroxy-benzaldehyde (4.75 g, 31.7 mmol) was reacted with K2CO3 (13.1 g, 95.1 mmol) and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (9.09 g, 38.0 mmol) to give 2-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-5-ethyl-benzaldehyde as dark brown oil (9.0 g, 92.7%).

reactant | 5-ethyl-2-hydroxy-benzaldehyde | 31.7 mmol, 4.75 g | C(C)C=1C=CC(=C(C=O)C1)O | C9H10O2
reactant | K2CO3 | 95.1 mmol, 13.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 38.0 mmol, 9.09 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 2-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-5-ethyl-benzaldehyde | 9.0 g, 92.7% | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)CC)(C)C | C17H28O3Si
